US08202865B2
Step 2: 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylic acid
Methyl 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylate, prepared in step 1 (2.5 g, 9.2 mmol) was dissolved in dry THF (20 mL) and cooled to 0° C. To this solution was added lithium hydroxide (1.15 g, 27.6 mmol) in water (5 mL) and the mixture was stirred at RT for 4 h. The solvents were concentrated and the aqueous residue was washed with EtOAc. The aqueous layer was separated and acidified with 1.5N HCl to pH 2-3 and extracted with DCM. DCM was washed with water and dried over sodium sulphate and evaporated under reduced pressure to obtain the title compound as a yellow solid (1.6 g, 70%). 1H NMR: (DMSO-d6, 400 MHz) δ 13.67 (bs, 1H), 8.49 (s, 1H), 8.26-8.24 (d, 1H), 7.58-7.56 (m, 1H), 7.35-7.32 (m, 2H), 7.27-7.12 (d, 1H), 7.10 (d, 1H), 2.09-1.99 (s, 3H). LC/MS (Method A): 255.9 (M−H)−. HPLC (Method B) Rt 1.79 min (Purity: 99.16%).

reactant | Methyl 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylate | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)[N+](=O)[O-] | C15H13NO4
reactant | lithium hydroxide | 27.6 mmol, 1.15 g | [OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2′-methyl-2-nitro-1,1′-biphenyl-4-carboxylic acid | 1.6 g, 70% | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)[N+](=O)[O-] | C14H11NO4
